### PR TITLE
feat(Wikipedia): Moving sofa problem

### LINKED ISSUE #1827: Moving Sofa Problem
### What is the conjecture

 The moving sofa problem asks: what is the maximum area $A$ of a rigid planar shape that can continuously traverse through an L-shaped corridor where both hallways have unit width 1? Formally, we seek to maximize the area of a connected compact set $S \subseteq \mathbb{R}^2$ such that there exists a continuous motion (composition of translations and rotations) allowing $S$ to pass through the entire corridor without intersecting the walls at any point in the trajectory. The corridor consists of two semi-infinite hallways of width 1 meeting at a right angle. This is a constrained geometric optimization problem that combines calculus of variations with computational geometry. The problem was formally posed by Leo Moser in 1966 and remains unsolved in its exact form, though numerical bounds and candidate solutions have been found.

(This description may be rough or contain errors; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Moving_sofa_problem, https://www.math.ucdavis.edu/~romik/movingsofa, https://arxiv.org/pdf/2411.19826, https://mathworld.wolfram.com/MovingSofaProblem.html

### Prerequisites needed

**Formalizability Rating:** 4/5 (0 is best) (as of 2026-01-21)

The problem requires formalization of rigid motions (continuous families of isometries), connected compact planar sets, and the notion of a continuous trajectory through the L-shaped corridor constraint. While Mathlib has basic metric space and topology infrastructure, it lacks: (1) a concrete formalization of the L-shaped corridor region as a specific subset of ℝ², (2) the concept of "valid traversal paths" (collision-free continuous motions), and (3) the optimization objective function (area of planar shapes). The proof strategy would likely involve either computational methods (via decidable geometry) or calculus of variations, both of which require significant additional theory. The formalization of rigid motions and collision-free paths in configuration space is non-trivial.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-49
* ams-52
* ams-90

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by hanwenzhu**
Closes #1827

### CODE REVIEW

**Comment by franzhusch** [comment]
This problem is also one of the Optimization Constants. https://teorth.github.io/optimizationproblems/constants/41a.html

We can then make a duplicate file after #1899 has been completed and we have a rough standard for how to state Optimization Constant Problems.

File: FormalConjectures/Wikipedia/MovingSofa.lean [hunk 1]
```diff
@@ -0,0 +1,181 @@
...
+/--
+The rigid motion that translates by `p` and then rotates counterclockwise by `α`.
+Note that [Ge92] used this definition while [Ro18] used rotation first and then translation.
+-/
+def rotateTranslate (α : Real.Angle) (p : ℝ²) : E(2) :=
+  (EuclideanGeometry.o.rotation α).toAffineIsometryEquiv
+    |>.trans (AffineIsometryEquiv.vaddConst ℝ p)
+
+/--
+The sofa according to a rotation path `p : [0, π/2] → ℝ²` as in [Ge92] is the intersection over
```
Comment (felixpernegger) [inline FormalConjectures/Wikipedia/MovingSofa.lean]: Use LaTeX formatting for docstrings

File: FormalConjectures/Wikipedia/MovingSofa.lean [hunk 2]
```diff
@@ -0,0 +1,181 @@
...
+    [SeminormedAddCommGroup V₂] [NormedSpace 𝕜 V₂] [PseudoMetricSpace P₂] [NormedAddTorsor V₂ P₂]
+    (f : P →ᵃⁱ[𝕜] P₂) : P →ᴬ[𝕜] P₂ := { f with cont := f.continuous }
+
+namespace MovingSofa
+
+open Topology
+open scoped Real unitInterval
+
+scoped notation "ℝ²" => EuclideanSpace ℝ (Fin 2)
+
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MovingSofa.lean]:
```suggestion
open EuclideanGeometry
```

File: FormalConjectures/Wikipedia/MovingSofa.lean [hunk 3]
```diff
@@ -0,0 +1,181 @@
...
+/-- Gerver's sofa is the sofa according to the rotation path `GerversSofa.p`. -/
+def gerversSofa : Set ℝ² :=
+  sofaOfRotateTranslatePath GerversSofa.p
+
+open MeasureTheory
+
+/-- What is the maximal volume of a moving sofa? -/
+@[category research open, AMS 49]
+theorem iSup_isMovingSofa_volume :
+    ⨆ (s : Set ℝ²) (_ : ∃ m, IsMovingSofa s m), volume s = answer(sorry) :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MovingSofa.lean]:
```suggestion
    ⨆ (s : Set ℝ²) (_ : ∃ m, IsMovingSofa s m), volume s = answer(sorry) := by
```

File: FormalConjectures/Wikipedia/MovingSofa.lean [hunk 4]
```diff
@@ -0,0 +1,181 @@
...
+  sorry
+
+/--
+Gerver's sofa attains the maximal volume of a moving sofa, conjectured by [Ge92] and claimed by
+[Ba24].
+-/
+@[category research open, AMS 49]
+theorem maximalFor_isMovingSofa_volume_gerversSofa :
+    MaximalFor (fun s ↦ ∃ m, IsMovingSofa s m) volume gerversSofa :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MovingSofa.lean]:
```suggestion
    MaximalFor (fun s ↦ ∃ m, IsMovingSofa s m) volume gerversSofa := by
```

File: FormalConjectures/Wikipedia/MovingSofa.lean [hunk 5]
```diff
@@ -0,0 +1,181 @@
...
+  sorry
+
+/-- Gerver's sofa attains the unique maximal volume of a moving sofa. -/
+@[category research open, AMS 49]
+theorem maximalFor_isMovingSofa_volume_iff_eq_gerversSofa :
+    ∀ s : Set ℝ², MaximalFor (fun s ↦ ∃ m, IsMovingSofa s m) volume s ↔ s = gerversSofa :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MovingSofa.lean]:
```suggestion
    ∀ s : Set ℝ², MaximalFor (fun s ↦ ∃ m, IsMovingSofa s m) volume s ↔ s = gerversSofa := by
```

File: FormalConjectures/Wikipedia/MovingSofa.lean [hunk 6]
```diff
@@ -0,0 +1,181 @@
...
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Moving_sofa_problem)
+
+[Ge92] Gerver, J. L., _On moving a sofa around a corner_. Geometriae Dedicata 42.3 (1992): 267-283.
+[Ro18] Romik, D. _Differential equations and exact solutions in the moving sofa problem_. Experimental mathematics 27.3 (2018): 316-330.
+[Ba24] Baek, J. _Optimality of Gerver's Sofa_. arXiv preprint arXiv:2411.19826 (2024).
+-/
+
+noncomputable section
+
+/-- Interpret an affine isometry as a continuous affine map. This is already in Mathlib. -/
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MovingSofa.lean]:
```suggestion
/-- Interpret an affine isometry as a continuous affine map. This is already in Mathlib. -/
-- TODO: remove this after bumping past v4.26.0
```

File: FormalConjectures/Wikipedia/MovingSofa.lean [hunk 7]
```diff
@@ -0,0 +1,176 @@
...
+-- TODO: remove this after bumping past v4.26.0
+def _root_.AffineIsometry.toContinuousAffineMap {𝕜 V V₂ P P₂ : Type*} [NormedField 𝕜]
+    [SeminormedAddCommGroup V] [NormedSpace 𝕜 V] [PseudoMetricSpace P] [NormedAddTorsor V P]
+    [SeminormedAddCommGroup V₂] [NormedSpace 𝕜 V₂] [PseudoMetricSpace P₂] [NormedAddTorsor V₂ P₂]
+    (f : P →ᵃⁱ[𝕜] P₂) : P →ᴬ[𝕜] P₂ := { f with cont := f.continuous }
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MovingSofa.lean]:
```suggestion
```

We are at v4.27 now...

File: FormalConjectures/Wikipedia/MovingSofa.lean [hunk 8]
```diff
@@ -0,0 +1,176 @@
...
+
+end GerversSofa
+
+/-- Gerver's sofa is the sofa according to the rotation path `GerversSofa.p`. -/
+def gerversSofa : Set ℝ² :=
+  sofaOfRotateTranslatePath GerversSofa.p
+
+open MeasureTheory
+
+/-- What is the maximal volume of a moving sofa? -/
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MovingSofa.lean]:
```suggestion
/-- What is the maximal area of a moving sofa? -/
```

I think this is less confusing, even though the (2d) lean `volume` is of course what we want.

File: FormalConjectures/Wikipedia/MovingSofa.lean [hunk 9]
```diff
@@ -0,0 +1,176 @@
...
+theorem maximalFor_isMovingSofa_volume_gerversSofa :
+    MaximalFor (fun s ↦ ∃ m, IsMovingSofa s m) volume gerversSofa := by
+  sorry
+
+/-- Gerver's sofa attains the unique maximal volume of a moving sofa. -/
+@[category research open, AMS 49]
+theorem maximalFor_isMovingSofa_volume_iff_eq_gerversSofa :
+    ∀ s : Set ℝ², MaximalFor (fun s ↦ ∃ m, IsMovingSofa s m) volume s ↔ s = gerversSofa := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MovingSofa.lean:186]:
```suggestion


/--
The unit square $[0,1]^2$ is a valid moving sofa (with the identity motion).
It sits in the corner where both hallways overlap, so the stationary motion works.
This is a sanity check that the `IsMovingSofa` definition is not vacuous.
-/
@[category test, AMS 49]
theorem unitSquare_isMovingSofa :
    ∃ m, IsMovingSofa unitSquare m := by
  use fun _ => .refl ℝ ℝ²
  have unitSquare_subset_horizontalHallway : unitSquare ⊆ horizontalHallway := by
    intro v ⟨x, y, ⟨hx0, hx1, hy0, hy1⟩, hv⟩
    exact ⟨x, y, ⟨hx1, hy0, hy1⟩, hv⟩
  refine {
    isConnected := ?_
    isClosed := ?_
    continuous := continuous_const
    zero := rfl
    initial := unitSquare_subset_horizontalHallway
    subset_hallway := fun _ => by
      simp only [AffineIsometryEquiv.coe_refl, Set.image_id]
      exact unitSquare_subset_horizontalHallway.trans (Set.subset_union_left)
    final := by
      simp only [AffineIsometryEquiv.coe_refl, Set.image_id]
      intro v ⟨x, y, ⟨hx0, hx1, hy0, hy1⟩, hv⟩
      exact ⟨x, y, ⟨hx0, hx1, hy1⟩, hv⟩
  }
  -- isConnected: [0,1]² is convex, hence connected.
  · sorry
  -- isClosed: [0,1]² is a product of closed intervals, hence closed.
  · sorry

/--
The maximal volume (area) of a moving sofa is at least 1, witnessed by the unit square $[0,1]^2$.
-/
@[category test, AMS 49]
theorem one_le_iSup_isMovingSofa_volume :
    1 ≤ ⨆ (s : Set ℝ²) (_ : ∃ m, IsMovingSofa s m), volume s := by
  sorry
```

This are perhaps good test statements for `IsMovingSofa`? 
AlphaProof can fill in the missing sorries:
```
  -- isConnected: [0,1]² is convex, hence connected.
  · show IsConnected {p | _}
    norm_num [← List.ofFn_injective.eq_iff]
    convert ((isConnected_Icc Real.zero_lt_one.le).prod
      (isConnected_Icc Real.zero_lt_one.le)).image _ continuous_norm.continuousOn using 1
    norm_num [Set.prod_eq, and_assoc, false, Set.image, false, EuclideanSpace.norm_eq]
    use fun and =>
      (congr_arg _ ((le_antisymm
        fun and ⟨x, k, l, y, A, B, _⟩ => .symm (by bound [abs_of_nonneg A, abs_of_nonneg k])
      ) fun and (a) => ⟨_, a.1, a.2, and, by simp_all [abs]⟩)).mpr
        (isConnected_Icc zero_le_one)
    use fun and => ⟨⟨_, 0, refl _, zero_le_one, 0, refl _, zero_le_one, rfl⟩,
      Convex.isPreconnected fun and ⟨x, k, l, y, A, B, C⟩ b ⟨u, i, e, v, E, F, G⟩ a s R L M =>
        C ▸ G ▸ ?_⟩
    exact ⟨_, add_nonneg ↑(mul_nonneg R k) (mul_nonneg L i), M ▸ by bound,
      _, add_nonneg ↑(mul_nonneg R A) (mul_nonneg L E), M ▸ by bound,
      eq_of_norm_sub_eq_zero (by · norm_num [EuclideanSpace.norm_eq])⟩
  -- isClosed: [0,1]² is a product of closed intervals, hence closed.
  · show IsClosed {x | _}
    simp_all only [exists_prop]
    apply (isClosed_of_closure_subset fun and μ =>
      (mem_closure_iff_seq_limit.1 μ).elim fun and Z => ?_)
    refine (Classical.axiomOfChoice Z.1).elim fun and (a) => ⟨‹ℝ²› 0, ‹ℝ²› 1, ?_⟩
    choose R M using a
    norm_num [← funext (M · |>.2)] at Z ⊢
    use and_assoc.1 ⟨isClosed_Icc.isSeqClosed (Z.1 · |>.imp_right And.left)
      (((continuous_induced_dom.tendsto _).comp Z.2).apply_nhds _), ?_⟩, ?_
    · exact isClosed_Icc.isSeqClosed (Z.1 · |>.right.right)
        (((continuous_induced_dom.tendsto _).comp Z.right).apply_nhds _)
    ext @c
    match c with | 0 | 1 => rfl



```
(slightly cleaned up, but still too ugly to add them here, I feel)


Potentially also add a definition for `⨆ (s : Set ℝ²) (_ : ∃ m, IsMovingSofa s m), volume s `?

File: FormalConjectures/Wikipedia/MovingSofa.lean [hunk 10]
```diff
@@ -0,0 +1,176 @@
...
+@[category research open, AMS 49]
+theorem iSup_isMovingSofa_volume :
+    ⨆ (s : Set ℝ²) (_ : ∃ m, IsMovingSofa s m), volume s = answer(sorry) := by
+  sorry
+
+/--
+Gerver's sofa attains the maximal volume of a moving sofa, conjectured by [Ge92] and claimed by
+[Ba24].
+-/
+@[category research open, AMS 49]
```
Comment (mo271) [inline FormalConjectures/Wikipedia/MovingSofa.lean]:
```suggestion
@[category research solved, AMS 49]
```
Is this considered (informally) solved?

File: FormalConjectures/Wikipedia/MovingSofa.lean (hunk 9 above)
Comment (hanwenzhu) [reply FormalConjectures/Wikipedia/MovingSofa.lean:186]: I agree the tests are nice, but I think the proofs are pretty long and outside the scope of this file (which is just for stating the theorem). I'm inclining to just leave all proofs as sorry.

File: FormalConjectures/Wikipedia/MovingSofa.lean (hunk 10 above)
Comment (hanwenzhu) [reply FormalConjectures/Wikipedia/MovingSofa.lean]: I don't really know, do you have a policy for this? My reference was simply that this problem is still listed as open in Wikipedia: https://en.wikipedia.org/wiki/List_of_unsolved_problems_in_mathematics https://en.wikipedia.org/wiki/Moving_sofa_problem

Comment (mo271) [reply FormalConjectures/Wikipedia/MovingSofa.lean]: I think generally we try to find the consensus of the community and what counts as informally solved, I suppose this is very fresh, so peer review might still be ongoing, but I would prefer to mark it as "solved" even though wikipedia is more careful here. We can always change it back if it turns out the that there is a gap in the solution.

File: FormalConjectures/Wikipedia/MovingSofa.lean (hunk 9 above)
Comment (mo271) [reply FormalConjectures/Wikipedia/MovingSofa.lean:186]: cool, agreed (I mainly wanted to convince myself that the definitions are legit) let's add the theorems though!

**Comment by hanwenzhu** [comment]
-awaiting-author

File: FormalConjectures/Wikipedia/MovingSofa.lean (hunk 9 above)
Comment (hanwenzhu) [reply FormalConjectures/Wikipedia/MovingSofa.lean:186]: I don't know how you defined `unitSquare` in your suggestion above, so I defined a new `unitSquare` using parallelepiped from Mathlib. I can confirm my current isMovingSofa_unitSquare is true (proof generated from Seed2.0 Code):

```lean
theorem isMovingSofa_unitSquare : ∃ m, IsMovingSofa unitSquare m := by
  let b := (EuclideanSpace.basisFun (Fin 2) ℝ).toBasis
  use fun _ ↦ .refl ℝ ℝ²
  refine' ⟨_, _, _, _, _, _, _⟩
  · -- isConnected unitSquare
    have h₁ : Convex ℝ unitSquare := by
      simpa [unitSquare, b] using convex_parallelepiped b
    have h₂ : unitSquare.Nonempty := by
      have h₂₁ : (0 : ℝ²) ∈ unitSquare := by
        have h_eq : unitSquare = {x : ℝ² | ∀ (i : Fin 2), (b.repr x) i ∈ Set.Icc (0 : ℝ) 1} := by
          simpa [unitSquare, b] using parallelepiped_basis_eq b
        rw [h_eq]
        simp [Set.mem_setOf_eq]
      exact ⟨0, h₂₁⟩
    exact h₁.isConnected h₂
  · -- isClosed unitSquare
    have h₁ : IsCompact unitSquare := by
      simpa [unitSquare, b] using b.parallelepiped.isCompact
    exact h₁.isClosed
  · -- continuous (fun (_ : I) ↦ .refl ℝ ℝ²)
    exact continuous_const
  · -- (fun (_ : I) ↦ .refl ℝ ℝ²) 0 = .refl ℝ ℝ²
    rfl
  · -- unitSquare ⊆ horizontalHallway
    intro p hp
    have h_eq : unitSquare = {x : ℝ² | ∀ (i : Fin 2), (b.repr x) i ∈ Set.Icc (0 : ℝ) 1} := by
      simpa [unitSquare, b] using parallelepiped_basis_eq b
    have h₄ : p ∈ unitSquare := hp
    have h₅ : ∀ (i : Fin 2), (b.repr p) i ∈ Set.Icc (0 : ℝ) 1 := by
      rw [h_eq] at h₄
      exact h₄
    have h₆ : ∀ (i : Fin 2), 0 ≤ (b.repr p) i ∧ (b.repr p) i ≤ 1 := by
      intro i
      have h₇ : (b.repr p) i ∈ Set.Icc (0 : ℝ) 1 := h₅ i
      simpa [Set.mem_Icc] using h₇
    have h₇ : ∀ (i : Fin 2), (b.repr p) i = p i := by
      intro i
      rfl
    have h₈ : ∀ (i : Fin 2), 0 ≤ p i ∧ p i ≤ 1 := by
      intro i
      have h₉ : 0 ≤ (b.repr p) i ∧ (b.repr p) i ≤ 1 := h₆ i
      have h₁₀ : (b.repr p) i = p i := h₇ i
      rw [h₁₀] at h₉
      exact h₉
    have h₉ : 0 ≤ p 0 := (h₈ 0).1
    have h₁₀ : p 0 ≤ 1 := (h₈ 0).2
    have h₁₁ : 0 ≤ p 1 := (h₈ 1).1
    have h₁₂ : p 1 ≤ 1 := (h₈ 1).2
    have h₁₃ : !₂[p 0, p 1] = p := by
      ext i
      fin_cases i <;> simp
    have h₁₄ : p 0 ≤ 1 ∧ 0 ≤ p 1 ∧ p 1 ≤ 1 := ⟨h₁₀, h₁₁, h₁₂⟩
    simp only [horizontalHallway, Set.mem_setOf_eq]
    exact ⟨p 0, p 1, h₁₄, h₁₃⟩
  · -- ∀ t, ((fun (_ : I) ↦ .refl ℝ ℝ²) t) '' unitSquare ⊆ hallway
    intro t
    have h : ((.refl ℝ ℝ² : E(2)) '' unitSquare) = unitSquare := by
      ext x
      simp
    rw [h]
    intro p hp
    have h_eq : unitSquare = {x : ℝ² | ∀ (i : Fin 2), (b.repr x) i ∈ Set.Icc (0 : ℝ) 1} := by
      simpa [unitSquare, b] using parallelepiped_basis_eq b
    have h₅ : ∀ (i : Fin 2), 0 ≤ p i ∧ p i ≤ 1 := by
      have h₆ : p ∈ unitSquare := hp
      have h₇ : ∀ (i : Fin 2), (b.repr p) i ∈ Set.Icc (0 : ℝ) 1 := by
        rw [h_eq] at h₆
        exact h₆
      have h₈ : ∀ (i : Fin 2), 0 ≤ (b.repr p) i ∧ (b.repr p) i ≤ 1 := by
        intro i
        have h₉ : (b.repr p) i ∈ Set.Icc (0 : ℝ) 1 := h₇ i
        simpa [Set.mem_Icc] using h₉
      have h₉ : ∀ (i : Fin 2), (b.repr p) i = p i := by
        intro i
        rfl
      intro i
      have h₁₀ : 0 ≤ (b.repr p) i ∧ (b.repr p) i ≤ 1 := h₈ i
      have h₁₁ : (b.repr p) i = p i := h₉ i
      rw [h₁₁] at h₁₀
      exact h₁₀
    have h₉ : 0 ≤ p 0 := (h₅ 0).1
    have h₁₀ : p 0 ≤ 1 := (h₅ 0).2
    have h₁₁ : 0 ≤ p 1 := (h₅ 1).1
    have h₁₂ : p 1 ≤ 1 := (h₅ 1).2
    have h₁₃ : !₂[p 0, p 1] = p := by
      ext i
      fin_cases i <;> simp
    have h₁₄ : p 0 ≤ 1 ∧ 0 ≤ p 1 ∧ p 1 ≤ 1 := ⟨h₁₀, h₁₁, h₁₂⟩
    simp only [hallway, horizontalHallway, verticalHallway, Set.mem_union, Set.mem_setOf_eq]
    left
    exact ⟨p 0, p 1, h₁₄, h₁₃⟩
  · -- ((fun (_ : I) ↦ .refl ℝ ℝ²) 1) '' unitSquare ⊆ verticalHallway
    have h : ((.refl ℝ ℝ² : E(2)) '' unitSquare) = unitSquare := by
      ext x
      simp
    rw [h]
    intro p hp
    have h_eq : unitSquare = {x : ℝ² | ∀ (i : Fin 2), (b.repr x) i ∈ Set.Icc (0 : ℝ) 1} := by
      simpa [unitSquare, b] using parallelepiped_basis_eq b
    have h₅ : ∀ (i : Fin 2), 0 ≤ p i ∧ p i ≤ 1 := by
      have h₆ : p ∈ unitSquare := hp
      have h₇ : ∀ (i : Fin 2), (b.repr p) i ∈ Set.Icc (0 : ℝ) 1 := by
        rw [h_eq] at h₆
        exact h₆
      have h₈ : ∀ (i : Fin 2), 0 ≤ (b.repr p) i ∧ (b.repr p) i ≤ 1 := by
        intro i
        have h₉ : (b.repr p) i ∈ Set.Icc (0 : ℝ) 1 := h₇ i
        simpa [Set.mem_Icc] using h₉
      have h₉ : ∀ (i : Fin 2), (b.repr p) i = p i := by
        intro i
        rfl
      intro i
      have h₁₀ : 0 ≤ (b.repr p) i ∧ (b.repr p) i ≤ 1 := h₈ i
      have h₁₁ : (b.repr p) i = p i := h₉ i
      rw [h₁₁] at h₁₀
      exact h₁₀
    have h₉ : 0 ≤ p 0 := (h₅ 0).1
    have h₁₀ : p 0 ≤ 1 := (h₅ 0).2
    have h₁₁ : 0 ≤ p 1 := (h₅ 1).1
    have h₁₂ : p 1 ≤ 1 := (h₅ 1).2
    have h₁₃ : !₂[p 0, p 1] = p := by
      ext i
      fin_cases i <;> simp
    have h₁₄ : 0 ≤ p 0 ∧ p 0 ≤ 1 ∧ p 1 ≤ 1 := ⟨h₉, h₁₀, h₁₂⟩
    simp only [verticalHallway, Set.mem_setOf_eq]
    exact ⟨p 0, p 1, h₁₄, h₁₃⟩
```

**Review by mo271 — APPROVED** [review]
Nice, looks good now!
Thanks

File: FormalConjectures/Wikipedia/MovingSofa.lean (hunk 9 above)
Comment (mo271) [reply FormalConjectures/Wikipedia/MovingSofa.lean:186]: I meant to include the defintion :
```lean
/-- The unit square $[0, 1]^2$. -/
def unitSquare : Set ℝ² :=
  {!₂[x, y] | (x) (y) (_ : 0 ≤ x ∧ x ≤ 1 ∧ 0 ≤ y ∧ y ≤ 1)}
```
this was quite ad-hoc, I like yours better...
